US04866064
In 35 ml of water and 70 ml of ethanol, 12.8 g of 2-amino-5-mercapto-1,3,4-thiadiazol and 43 g of sodium hydroxide were added. To this mixture, 14.8 g of 4-chlorobenzyl chloride was added and the mixture was stirred at room temperature for 1 hour. Water was added and the reaction mixture was filtered. The residue was washed with water and an ethanol/n-hexane (1:1) mixture, and was dried under reduced pressure, and thus 23:1 g of 2-amino-5-(4-chlorobenzylthio)-1,3,4-thiadiazole was obtained.

reactant | 2-amino-5-mercapto-1,3,4-thiadiazol | 12.8 g | NC=1SC(=NN1)S | C2H3N3S2
reactant | sodium hydroxide | 43 g | [OH-].[Na+]
reactant | 4-chlorobenzyl chloride | 14.8 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
solvent | water | 35 ml | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-amino-5-(4-chlorobenzylthio)-1,3,4-thiadiazole | 1 g, Yield 93% | NC=1SC(=NN1)SCC1=CC=C(C=C1)Cl | C9H8ClN3S2
